US06376672B1
In an analogous manner to that described in Example 13 (f), by reacting (3RS,4RS,5SR)-3-hydroxy-5-hydroxymethyl-4-[4-[3-(2-methoxy-benzyloxy)-propoxy]-phenyl]-piperidine-1-carboxylic acid tert-butyl ester with triphenylchloromethane there was obtained (3RS,4RS,5SR)-3-hydroxy-4-[4-[3-(2-methoxy-benzyloxy)-propoxy]-phenyl]5-trityloxymethyl-piperidine-1-carboxylic acid tert-butyl ester as a colorless foam; MS: 761 (M+NH4)+.

reactant | (3RS,4RS,5SR)-3-hydroxy-5-hydroxymethyl-4-[4-[3-(2-methoxy-benzyloxy)-propoxy]-phenyl]-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC(C(C(C1)CO)C1=CC=C(C=C1)OCCCOCC1=C(C=CC=C1)OC)O | C28H39NO7
reactant | triphenylchloromethane | C1(=CC=CC=C1)C(Cl)(C1=CC=CC=C1)C1=CC=CC=C1 | C19H15Cl
product | (3RS,4RS,5SR)-3-hydroxy-4-[4-[3-(2-methoxy-benzyloxy)-propoxy]-phenyl]5-trityloxymethyl-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC(C(C(C1)COC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=C(C=C1)OCCCOCC1=C(C=CC=C1)OC)O | C47H53NO7
